US06632810B2
Synthesis of N,N′-bis[(1-methyl-5,6,7-trimethoxybenzimidazol-2-yl)methyl]homopiperazine:
2-Chloromethyl-1-methyl-5,6,7-trimethoxybenzimidazole (39 mg) and homopiperazine (7 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 2-Chloromethyl-1-methyl-5,6,7-trimethoxybenzimidazole | 39 mg | ClCC1=NC2=C(N1C)C(=C(C(=C2)OC)OC)OC | C12H15ClN2O3
reactant | homopiperazine | 7 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[(1-methyl-5,6,7-trimethoxybenzimidazol-2-yl)methyl]homopiperazine | CN1C(=NC2=C1C(=C(C(=C2)OC)OC)OC)CN2CCN(CCC2)CC2=NC1=C(N2C)C(=C(C(=C1)OC)OC)OC | C29H40N6O6
